US05025036
A mixture of 1.00 g (2.57 mmol) of 4-[6-(2,3-dihydroxyphenyl)hexyloxy]-2-hydroxy-3-propylbenzoic acid, 0.76 mL (5.15 mmol) of n-hexyl iodide and 0.26 g (3.36 mmol) of sodium bicarbonate in 15 mL of anhydrous dimethylformamide was stirred and heated at 70° for 16 hours. The solvent was removed on the oil pump, water was added and the product was extracted with ethyl acetate. The dried extract was concentrated under reduced pressure to an oil which was purified by chromatography on silica gel using 5% ethyl acetate-toluene to give 1.01 g (83% yield) of 4-[6-(2,3-dihydroxyphenyl)hexyloxy]-2-hydroxy-3-propylbenzoic acid hexyl ester as an oil.

reactant | 4-[6-(2,3-dihydroxyphenyl)hexyloxy]-2-hydroxy-3-propylbenzoic acid | 2.57 mmol, 1.00 g | OC1=C(C=CC=C1O)CCCCCCOC1=C(C(=C(C(=O)O)C=C1)O)CCC | C22H28O6
reactant | n-hexyl iodide | 5.15 mmol, 0.76 mL | C(CCCCC)I | C6H13I
reactant | sodium bicarbonate | 3.36 mmol, 0.26 g | C([O-])(O)=O.[Na+]
solvent | dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
product | 4-[6-(2,3-dihydroxyphenyl)hexyloxy]-2-hydroxy-3-propylbenzoic acid hexyl ester | 1.01 g, 83% yield | C(CCCCC)OC(C1=C(C(=C(C=C1)OCCCCCCC1=C(C(=CC=C1)O)O)CCC)O)=O | C28H40O6
